US07411072B2
5-Phenethyl-thiazole-4-carboxylic acid methyl ester
Reflux one equiv of 2-amino-5-phenethyl-thiazole-4-carboxylic acid methyl ester and 3 equiv of isoamyl nitrite in THF (0.13M) for 3 h. Evaporate volatile components to give 55% yield of title compound. BPLC (GRAD80-100M) t=2.410 (99%). MS (APCI): 248 (M+1).

reactant | 2-amino-5-phenethyl-thiazole-4-carboxylic acid methyl ester | one equiv | COC(=O)C=1N=C(SC1CCC1=CC=CC=C1)N | C13H14N2O2S
reactant | isoamyl nitrite | 3 equiv | N(=O)OCCC(C)C | C5H11NO2
solvent | THF | 0.13M | C1CCOC1 | C4H8O
product | 5-Phenethyl-thiazole-4-carboxylic acid methyl ester | 55% yield | COC(=O)C=1N=CSC1CCC1=CC=CC=C1 | C13H13NO2S
